US05834499
In 100 ml of diethyl ether, 1.09 g of 7-oxo-4,5,6,7-tetrahydrobenzofuran was dissolved, and 0.41 ml of bromine was added. The mixture was stirred at room temperature for one hour. The solvent was then evaporated, and the residue was subjected to silica gel column chromatography, whereby 1.13 g of 6-bromo-7-oxo-4,5,6,7-tetrahydrobenzofuran was obtained as the oil form from the fraction eluted with hexane-ethyl acetate (10:1).

reactant | 7-oxo-4,5,6,7-tetrahydrobenzofuran | 1.09 g | O=C1CCCC=2C=COC21 | C8H8O2
reactant | bromine | 0.41 ml | BrBr | Br2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 6-bromo-7-oxo-4,5,6,7-tetrahydrobenzofuran | 1.13 g | BrC1C(C2=C(C=CO2)CC1)=O | C8H7BrO2
